US07087750B2
1-[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]-4-(1-piperazinyl)-1H-indole hydrochloride (Scheme 1)
The title compound was prepared 4-(4-boc-piperazinyl)-indole and 1-[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl chloride according to Method 4 to afford the hydrochloride salt (yield 45%), HPLC purity >95%; 1H NMR (DMSO-d6) δ 2.65 (s, 3H), 3.26 (bs, 8H), 6.82 (app d, 1H), 7.00 (appd, 1H), 7.28 (app t, 1H), 7.60 (app dd, 2H), 7.87 (app d, 1H), 8.08–8.12 (m, 2H); 13C NMR (DMSO-d6) δ 145.05, 139.82, 139.35, 137.46, 135.14, 133.31, 130.96, 128.70 (2C), 125.62, 124.89, 124.12, 123.52, 111.42, 107.91, 107.71, 47.87 (2C), 43.03 (2C), 12.27; MS (posES-FIA) m/z 446 (M+H).

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | (5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl chloride | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
product | 1-[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]-4-(1-piperazinyl)-1H-indole hydrochloride | Cl.ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)N2C=CC3=C(C=CC=C23)N2CCNCC2)C)C1 | InChI=1S/C21H20ClN3O2S2.ClH/c1-14-17-13-15(22)5-6-20(17)28-21(14)29(26,27)25-10-7-16-18(3-2-4-19(16)25)24-11-8-23-9-12-24;/h2-7,10,13,23H,8-9,11-12H2,1H3;1H
